US05019613
2,4,6-Tris(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-1,3,5-triazine
A mixture of 30.0 g (0.117 mol) of 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine, 2.8 g (0.117 mol) of sodium hydride, a few drops of dimethyl sulfoxide, and 150 ml of 1,4-dioxane is heated at reflux for two hours, then allowed to cool. To this mixture is added over 15 minutes solution of 7.2 g (0.039 mol) of cyanuric chloride in 50 ml of dioxane. Salt formation is observed, and the reaction temperature rises from 20° C to 50° C during the addition. The reaction mixture is then heated at reflux for 30 minute and stirred overnight at room temperature. Salts are removed by filtration, and the salt cake is slurried in water and filtered to remove salt from the product, a solid. The crude product is dissolved in boiling methanol and residual salt is removed by filtration. Additional product is recovered from the dioxane filtration. Crude solids are combined and heated in refluxing 2-propanol. Th resulting suspension is allowed to cool, and the solid is isolated by filtration to afford 19.4 g (59% yield) of the title compound, a white solid, m.p. 242°-5° C. (dec.).

reactant | 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 0.117 mol, 30.0 g | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | sodium hydride | 0.117 mol, 2.8 g | [H-].[Na+]
reactant | cyanuric chloride | 0.039 mol, 7.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
catalyst | dimethyl sulfoxide | a few drops | CS(=O)C | C2H6OS
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 2,4,6-Tris(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-1,3,5-triazine | 19.4 g, 59% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)OC1=NC(=NC(=N1)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)(C)C | C48H84N6O6
